US06664271B1
The reaction was run in the same manner as ethyl 1-benzoyl-3-piperidinecarboxylate, starting with ethyl nipecotate (504.4 mg; 3.2 mmol) and commercially available 4-biphenylcarbonyl chloride (693 mg; 3.21 mmol). The crude product was purified by chromatography on silica eluting with 30% ethyl acetate in hexane, giving ethyl 1-(4-phenylbenzoyl)-3-piperidinecarboxylate (805.5 mg) as a pale yellow oil. MS m/z (positive ion) 697 (dimer+Na+; 15), 675 (dimer+; 15), 360 (M+Na+; 15), 338 (MH+; 100), 181 (25).

reactant | ethyl 1-benzoyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3
reactant | ethyl nipecotate | 3.2 mmol, 504.4 mg | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 4-biphenylcarbonyl chloride | 3.21 mmol, 693 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | ethyl 1-(4-phenylbenzoyl)-3-piperidinecarboxylate | 805.5 mg | C1(=CC=CC=C1)C1=CC=C(C(=O)N2CC(CCC2)C(=O)OCC)C=C1 | C21H23NO3
